US07109332B2
tert-Butyl 3-(4-aminophenyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-7-ylcarbamate
A solution of 2-amino-4-(tert-butoxycarbonylamino)-benzoic acid methyl ester (6.3 g, 23.6 mmol) and 4-nitrophenyl isocyanate (7.8 g, 47.4 mmoles) in 100 mL dry dimethylformamide was stirred at room temperature for 20 hrs. To it was then added diisopropylamine (8.2 mL, 47.4 mmol), and the reaction mixture was heated in 80° C. bath for 2 hrs. It was cooled to room temperature and the solid precipitates were filtered off. The dimethylformamide filtrate was concentrated in vacuo to evaporate the solvent. To the residue was added 400 mL dichloromethane. After stirred and swirled, the solid was isolated by filtration. This solid was then dissolved in 100 mL dimethylformamide and 200 mL methanol. To it was added 1.0 g 10% Pd/C, and the mixture was subjected to standard hydrogenation using a balloon for 20 hrs. It was filtered through a celite bed. The filtrate was concentrated in vacuo and purified using flash column to afford the title compound (4.1 g, 44%). ES+ MS showed 397 m/z, the correct mass for the product.

reactant | 2-amino-4-(tert-butoxycarbonylamino)-benzoic acid methyl ester | 23.6 mmol, 6.3 g | COC(C1=C(C=C(C=C1)NC(=O)OC(C)(C)C)N)=O | C13H18N2O4
reactant | 4-nitrophenyl isocyanate | 47.4 mmoles, 7.8 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
reactant | diisopropylamine | 47.4 mmol, 8.2 mL | C(C)(C)NC(C)C | C6H15N
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | methanol | 200 mL | CO | CH4O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | tert-Butyl 3-(4-aminophenyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-7-ylcarbamate | 4.1 g, 44% | NC1=CC=C(C=C1)N1C(NC2=CC(=CC=C2C1=O)NC(OC(C)(C)C)=O)=O | C19H20N4O4
